US05773624
62.5% sulfuric acid (603.7 g) were added dropwise to sodium nitrite (507.2 g) and ethyl cyanoacetate (791.0 g) in water (2,540 ml) at 30° to 40° C. over 2.2 hrs. under cooling. After completion of the addition, the mixture was stirred at a room temperature for 2 hrs, and the nitrogen oxide (NO2) was removed under reduced pressure, and the residue was cooled to 15° C. to separate crystals, which were filtered off and washed twice with water (150 ml) and twice with toluene (200 ml), and dried at 50° C. to give ethyl 2-hydroxyiminocyanoacetate (932.9 g, yield: 93.9%).

reactant | sulfuric acid | 603.7 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 507.2 g | N(=O)[O-].[Na+]
reactant | ethyl cyanoacetate | 791.0 g | C(#N)CC(=O)OCC | C5H7NO2
solvent | water | 2,540 ml | O | H2O
product | ethyl 2-hydroxyiminocyanoacetate | 932.9 g, yield: 93.9% | ON=C(C(=O)OCC)C#N | C5H6N2O3
